US05134146
3-(3-Ethyl-1,2,4-oxadiazol-5-yl)quinuclidine Hydrogen Oxalate
The title compound free base (17 g, 77%) was prepared from methyl quinuclidine-3-carboxylate (18.0 g, 0.11 mol), propionamide oxime (14 g, 0.16 mol) and sodium hydride (7 g of a 55% oil dispersion, 0.16 mol) in anhydrous tetrahydrofuran (350 mL). The hydrogen oxalate salt had mp 113°-115° C. (propan-2-ol). Rf 0.3 in dichloromethane/methanol (50:1) on alumina plates. (Found: C, 52.25; H, 6.41; N, 14.07. C11H17N3O.C2H2O4 requires C, 52.52; H, 6.44; N, 14.13%).

reactant | methyl quinuclidine-3-carboxylate | 0.11 mol, 18.0 g | N12CC(C(CC1)CC2)C(=O)OC | C9H15NO2
reactant | propionamide oxime | 0.16 mol, 14 g | C(CC)(N)=NO | C3H8N2O
reactant | sodium hydride | [H-].[Na+]
reactant | propan-2-ol | CC(C)O | C3H8O
reactant | dichloromethane methanol | ClCCl.CO
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
product | 3-(3-Ethyl-1,2,4-oxadiazol-5-yl)quinuclidine Hydrogen Oxalate | C(C(=O)O)(=O)O.C(C)C1=NOC(=N1)C1CN2CCC1CC2 | InChI=1S/C11H17N3O.C2H2O4/c1-2-10-12-11(15-13-10)9-7-14-5-3-8(9)4-6-14;3-1(4)2(5)6/h8-9H,2-7H2,1H3;(H,3,4)(H,5,6)
